US07141596B2
Step 6. Synthesis of N-2-[4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide
5-[4-(2-Aminoethyl)phenyl]-2-tert-butylisothiazol-3(2H)-one 1,1-dioxide trifluoroacetate (36.7 mg, 0.0869 mmol) and triethylamine (36.3 μL, 0.260 mmol) were dissolved in N,N-dimethylformamide (0.15 mL). 4-Phenoxybenzenesulfonyl chloride (29.2 mg, 0.109 mmol) was added and the reaction was allowed to stir at room temperature for 30 minutes. The reaction was chromatographed on a 21.2 mm Luna C18 column using a 10–90% acetonitrile in water gradient with 0.05% trifluoroacetic acid at 12.5 mL per minute over a 15 minute period. The major fraction was evaporated to a clear glass (18 mg, 38%). 1H NMR (500 MHz, CDCl3): δ 7.75 (d, J=8.8 Hz, 2H), 7.69 (d, J=8.3 Hz, 2H), 7.41 (t, J=8.1 Hz, 2H), 7.27 (d, J=7.8 Hz, 3H), 7.23 (t, J=7.6 Hz, 1H), 7.07 (d, J=7.8 Hz, 2H), 7.02 (d, J=8.8 Hz, 2H), 3.25 (t, J=6.8 Hz, 2H), 2.87 (t, J=7.1 Hz, 2H), 1.73 (s, 9H); LCMS found for C27H32N3O6S2 (M+NH4)+: m/z 558.2.

reactant | 5-[4-(2-Aminoethyl)phenyl]-2-tert-butylisothiazol-3(2H)-one 1,1-dioxide trifluoroacetate | 0.0869 mmol, 36.7 mg | FC(C(=O)O)(F)F.NCCC1=CC=C(C=C1)C1=CC(N(S1(=O)=O)C(C)(C)C)=O
reactant | triethylamine | 0.260 mmol, 36.3 μL | C(C)N(CC)CC | C6H15N
reactant | 4-Phenoxybenzenesulfonyl chloride | 0.109 mmol, 29.2 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H9ClO3S
solvent | N,N-dimethylformamide | 0.15 mL | CN(C=O)C | C3H7NO
product | N-2-[4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide | C(C)(C)(C)N1S(C(=CC1=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)(=O)=O | C27H28N2O6S2
